US07105671B2
A mixture of 2-(3,4-dichloro-phenyl)-3-(2,2-difluoro-cyclopentyl)-propionic acid methyl ester (265 mg, 0.73 mmol) and 2-aminothiazole (18 mg, 0.18 mmol) in a solution of magnesium methoxide in methanol (7.4 wt. %, 0.28 mL, 0.19 mmol) was heated to 110° C. for 18 h. At this time, the reaction mixture was cooled to 25° C. and then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 50/50 hexanes/ethyl acetate) afforded 2-(3,4-dichloro-phenyl)-3-(2,2-difluoro-cyclopentyl)-N-thiazol-2-yl-propionamide (8.3 mg, 23%) as a yellow oil: EI-HRMS m/e calcd for C17H16F2Cl2N2OS (M+H)+ 405.0402, found 405.0407.

reactant | 2-(3,4-dichloro-phenyl)-3-(2,2-difluoro-cyclopentyl)-propionic acid methyl ester | 0.73 mmol, 265 mg | COC(C(CC1C(CCC1)(F)F)C1=CC(=C(C=C1)Cl)Cl)=O | C15H16Cl2F2O2
reactant | 2-aminothiazole | 0.18 mmol, 18 mg | NC=1SC=CN1 | C3H4N2S
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 0.19 mmol, 0.28 mL | CO | CH4O
product | 2-(3,4-dichloro-phenyl)-3-(2,2-difluoro-cyclopentyl)-N-thiazol-2-yl-propionamide | 8.3 mg, 23% | ClC=1C=C(C=CC1Cl)C(C(=O)NC=1SC=CN1)CC1C(CCC1)(F)F | C17H16Cl2F2N2OS
